US08536168B2
2-(6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-pyridin-3-yl)-propan-2-ol
6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-nicotinic acid ethyl ester (85 mg, 0.180 mmol) is dissolved in THF (1 mL). Methyl magnesium iodide (240 μL, 3M in diethyl ether, 0.72 mmol) is added dropwise. Stir reaction for 2 h at room temperature. Concentrate in vacuo. The residue is purified by flash chromatography on silica gel (MeOH/CH2Cl2) to afford the title compound (8 mg, 10%).

reactant | 6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-nicotinic acid ethyl ester | 0.180 mmol, 85 mg | C(C)OC(C1=CN=C(C=C1)N1CCN(CC1)C1=NN=C(C2=CC=CC=C12)CC1=CC=C(C=C1)F)=O | C27H26FN5O2
reactant | Methyl magnesium iodide | 0.72 mmol, 3M, 240 μL | C[Mg]I
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-pyridin-3-yl)-propan-2-ol | 8 mg, 10% | FC1=CC=C(CC2=NN=C(C3=CC=CC=C23)N2CCN(CC2)C2=CC=C(C=N2)C(C)(C)O)C=C1 | C27H28FN5O
